US05717122
Manufacture of Ferrocenylmethyl Hydroxypropyl Ether
21.6 g hydroxymethylferrocene was dissolved in 250 ml dichloromethane and 2.16 g methanesulfonic acid was added. Then 5.8 g of propylene oxide was added dropwise at room temperature while stirring. After this addition was complete, the mixture was stirred for another 24 hours at room temperature. Then the mixture was washed several times with saturated sodium bicarbonate solution and with distilled water. After the solution was dried, the solvent was drawn off by vacuum and 22.5 g of the desired product obtained.

reactant | hydroxymethylferrocene | 21.6 g | OC[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | methanesulfonic acid | 2.16 g | CS(=O)(=O)O | CH4O3S
reactant | propylene oxide | 5.8 g | C1C(C)O1 | C3H6O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Ferrocenylmethyl Hydroxypropyl Ether | OCCCOC[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C9H13O2.C5H5.Fe/c10-6-3-7-11-8-9-4-1-2-5-9;1-2-4-5-3-1;/h1-2,4-5,10H,3,6-8H2;1-5H;/q2*-1;+2
